US04345081
A mixture of 0.8 g of 6-chloro-1-(2-chlorophenyl)-1'-methylspiro[indoline-3,4'-piperidine], free base of Example 28, and 0.5 g of phenyl chloroformate in 20 ml of methylene chloride is stirred at ambient temperature for 16 hours. Thereafter, the mixture is successively washed with 10% sodium hydroxide, washed with water, dried and concentrated under vacuum leaving a brownish oil. The oil is passed through an alumina column, ether eluant, providing a colorless gum of 6-chloro-1-(2-chlorophenyl)-1'-phenoxycarbonylspiro[indoline-3,4'-piperidine]. IR and NMR spectra confirm the assigned structure.

reactant | 6-chloro-1-(2-chlorophenyl)-1'-methylspiro[indoline-3,4'-piperidine] | 0.8 g | ClC1=CC=C2C(=C1)N(CC21CCN(CC1)C)C1=C(C=CC=C1)Cl | C19H20Cl2N2
reactant | phenyl chloroformate | 0.5 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | ether | CCOCC | C4H10O
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | 6-chloro-1-(2-chlorophenyl)-1'-phenoxycarbonylspiro[indoline-3,4'-piperidine] | ClC1=CC=C2C(=C1)N(CC21CCN(CC1)C(=O)OC1=CC=CC=C1)C1=C(C=CC=C1)Cl | C25H22Cl2N2O2
